US08871756B2
2-(1,3,4,5-Tetrahydro-2H-2-benzazepin-2-yl)quinoline-4-thiol
A mixture of 2-(4-chloroquinolin-2-yl)-2,3,4,5-tetrahydro-1H-2-benzazepine (2 g, 6.47 mmol) and sodium thiomethoxide (2.4 g, 34 mmol) in dry N,N-dimethylformamide (20 mL) was heated with stirring overnight under reflux. The reaction mixture was cooled to 50° C. and the volatile components were evaporated under reduced pressure to give a residue which was dissolved in 30 mL of chilled water and carefully acidified with 20% hydrochloride aid to pH 4-5 under argon. The resultant solution was extracted with chilled dichloromethane (30 mL×3). The dichloromethane fractions were combined and washed with chilled brine (30 mL×2) and then concentrated under reduced pressure at room temperature to give the crude product. It was used in next step without further purification.

reactant | 2-(4-chloroquinolin-2-yl)-2,3,4,5-tetrahydro-1H-2-benzazepine | 6.47 mmol, 2 g | ClC1=CC(=NC2=CC=CC=C12)N1CC2=C(CCC1)C=CC=C2 | C19H17ClN2
reactant | sodium thiomethoxide | 34 mmol, 2.4 g | C[S-].[Na+]
reactant | hydrochloride | Cl | ClH
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | water | 30 mL | O | H2O
product | 2-(1,3,4,5-Tetrahydro-2H-2-benzazepin-2-yl)quinoline-4-thiol | C1N(CCCC2=C1C=CC=C2)C2=NC1=CC=CC=C1C(=C2)S | C19H18N2S
